US09284308B2
1-(4-(1-Methyl-1H-1,2,3-triazole-5-carbonyl)piperidin-1-yl)ethanone
A solution of 1-methyl-1H-1,2,3-triazole (0.28 g, 3.37 mmol) in dry THF (3 mL) was cooled in a −78° C. bath and n-butyllithium (2.5 M in hexanes, 1.26 mL, 3.15 mmol) was added dropwise over a 20 minute period. The suspension was stirred in the cold bath for 30 minutes and then 1-acetyl-N-methoxy-N-methylpiperidine-4-carboxamide (0.74 g, 3.45 mmol, Intermediate 52: step a) dissolved in THF (3 mL) was added dropwise. The resulting suspension was stirred at −78° C. for 5 minutes then warmed to 0° C. and stirred for an additional 30 minutes. The mixture was warmed to room temperature and stirred for 2.5 hours then quenched with saturated aqueous NH4Cl. The aqueous mixture was extracted with EtOAc (2×). The combined EtOAc extracts were dried over Na2SO4, filtered, concentrated to dryness and chromatographed (EtOAc/DCM) to provide the title compound.

reactant | 1-methyl-1H-1,2,3-triazole | 3.37 mmol, 0.28 g | CN1N=NC=C1 | C3H5N3
reactant | n-butyllithium | 3.15 mmol, 2.5 M, 1.26 mL | C(CCC)[Li]
reactant | 1-acetyl-N-methoxy-N-methylpiperidine-4-carboxamide | C(C)(=O)N1CCC(CC1)C(=O)N(C)OC | C10H18N2O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(4-(1-Methyl-1H-1,2,3-triazole-5-carbonyl)piperidin-1-yl)ethanone | CN1N=NC=C1C(=O)C1CCN(CC1)C(C)=O | C11H16N4O2
